US06610701B2
Step C: 5-(Aminomethyl)-2-methylbenzimidazole
The title compound was prepared from 5-(hydroxymethyl)-2-methylbenzimidazole: Rf (8:1:1 EtOAc:MeOH:NH4OH)=0.15. 1H NMR (300 MHz, CD3OD): δ7.45 (m, 2H), 7.20 (d, J=8.1 Hz, 1H), 3.90 (s, 2H), 2.56 (s, 3H).

reactant | 5-(hydroxymethyl)-2-methylbenzimidazole | OCC1=CC2=C(N=C(N2)C)C=C1 | C9H10N2O
reactant | EtOAc | CCOC(=O)C | C4H8O2
reactant | NH4OH | [NH4+].[OH-]
solvent | MeOH | CO | CH4O
product | 5-(Aminomethyl)-2-methylbenzimidazole | NCC1=CC2=C(N=C(N2)C)C=C1 | C9H11N3
